US04888332
Preparation of 5-hydroxy-2-methoxycarbonyl-7-methylthio-s-triazolo[1,5-a]pyrimidine
A suspension of ethyl 2-methylthiocarbonylacetate (37.6 g) an 3-amino-5-methoxycarbonyl-s-triazole (20 g) in dimethylformamide (200 ml) was refluxed for one hour. After removing the solvent by distillation under reduced pressure, ether was added to the residue, and the formed crystals were purified by silica gel chromatography, giving 11.7 g of the objective compound.

reactant | ethyl 2-methylthiocarbonylacetate | 37.6 g | CC(=S)CC(=O)OCC | C6H10O2S
reactant | 3-amino-5-methoxycarbonyl-s-triazole | 20 g | NC1=NNC(=N1)C(=O)OC | C4H6N4O2
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-hydroxy-2-methoxycarbonyl-7-methylthio-s-triazolo[1,5-a]pyrimidine | 11.7 g | OC1=NC=2N(C(=C1)SC)N=C(N2)C(=O)OC | C8H8N4O3S
